US08609720B2
Synthesis of N′1,N′3-dimethylmalonohydrazide
A flask was charged with crude N′1,N′3-dicarboxybenzyloxy-N′1,N′3-dimethylmalono-hydrazide from the step below, methanol, 10% palladium on carbon, put under an atmosphere of hydrogen, and stirred overnight. The suspension was filtered through celite and evaporated to dryness to give N′1,N′3-dimethylmalonohythazide (2.4 g; 15 mmol)

reactant | N′1,N′3-dicarboxybenzyloxy-N′1,N′3-dimethylmalono-hydrazide | C(=O)(O)N(NC(C(C(=O)NN(C)C(=O)O)OCC1=CC=CC=C1)=O)C | C14H18N4O7
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N′1,N′3-dimethylmalonohydrazide | CNNC(CC(=O)NNC)=O | C5H12N4O2
